US04806558
(3-Ethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-(4-tolyl)-acetylene
Using a process similar to that described in Example 13, 27.7 g (0.1 mole) of diethyl 1-chloro-1-(4-tolyl)-methylphosphonate, 24.4 g (0.1 mole) of 3-ethyl-2-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene and 22.5 g (0.2 mole) of potassium tert.-butylate were reacted for 1 hour to give 8.3 g (25%) of the title compound of melting point 72°-73° C., the reaction mixture being poured onto water and acidified, and the precipitate which had separated out being recrystallized from methanol and once again from isopropanol.

reactant | diethyl 1-chloro-1-(4-tolyl)-methylphosphonate | 0.1 mole, 27.7 g | ClC(C1=CC=C(C=C1)C)P(OCC)(OCC)=O | C12H18ClO3P
reactant | 3-ethyl-2-formyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 0.1 mole, 24.4 g | C(C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C17H24O
product | (3-Ethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-(4-tolyl)-acetylene | 8.3 g, 25% | C(C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C#CC1=CC=C(C=C1)C | C25H30
